US05559230
To 3-carboxy-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (3.7 g) are added tetrahydrofuran (50 ml) and thionyl chloride (5 ml). The mixture is reacted at 60° C. for 1 hour. The reaction mixture is concentrated and to the residue is added acetone (20 ml). To the mixture is added dropwise a solution of sodium azide (1.0 g) in water (5 ml) under ice-cooling. The reaction mixture is stirred at the same temperature for 30 minutes and extracted with dichloromethane, dried over magnesium sulfate. The solvent is concentrated and to the resulting residue are added anhydrous toluene (30 ml) and benzyl alcohol (1.7 g). The mixture is refluxed for 1 hour. The reaction mixture is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane→dichloromethane:methanol=50:1) to give 3-benzyloxycarbonylamino-1-[4-(3,5-dichlorobenzoylamino)benzoyl)-1,2,3,4-tetrahydroquinoline (3.7 g) as colorless amorphous.

reactant | 3-carboxy-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 3.7 g | C(=O)(O)C1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C24H18Cl2N2O4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-benzyloxycarbonylamino-1-[4-(3,5-dichlorobenzoylamino)benzoyl)-1,2,3,4-tetrahydroquinoline | 3.7 g | C(C1=CC=CC=C1)OC(=O)NC1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C31H25Cl2N3O4
